US20010023249A1
Step 3: Preparation of (4-phenethyl-phenyl)-carbamic acid tert-butyl ester (Ii):
(4-Phenylethynyl-phenyl)-carbamic acid tert-butyl ester (Ih, 0.95 g, 3.24 mmol) was dissolved in MeOH (50 mL), treated with 20% Pd/C (0.1 g), and shaken under H2 (50 psi) for 22 hours. The reaction was filtered and concentrated to give 0.90 g (93%) of the desired product.

reactant | (4-Phenylethynyl-phenyl)-carbamic acid tert-butyl ester | 3.24 mmol, 0.95 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C#CC1=CC=CC=C1)=O | C19H19NO2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | (4-phenethyl-phenyl)-carbamic acid tert-butyl ester | 0.90 g, 93% | C(C)(C)(C)OC(NC1=CC=C(C=C1)CCC1=CC=CC=C1)=O | C19H23NO2
